US06329400B1
To a solution of (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid 3-pyridylamide (1.6 g, 5.21 mmol) in dichloromethane (10 mL) cooled at 0° C. is added 4 M HCl in dioxane (10 mL). The resulting solution is allowed to warm to 25° C. and is stirred for 3 h. The reaction mixture is concentrated and the solid is filtered to provide (2S)-2-amino-3,3-dimethylbutanoic acid 3-pyridylamide dihydrochloride (1.40 g, 94% yield) as a white solid.

reactant | (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid 3-pyridylamide | 5.21 mmol, 1.6 g | N1=CC(=CC=C1)NC([C@H](C(C)(C)C)NC(=O)OC(C)(C)C)=O | C16H25N3O3
reactant | HCl | 4 M | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (2S)-2-amino-3,3-dimethylbutanoic acid 3-pyridylamide dihydrochloride | 1.40 g, 94% yield | Cl.Cl.N1=CC(=CC=C1)NC([C@H](C(C)(C)C)N)=O | InChI=1S/C11H17N3O.2ClH/c1-11(2,3)9(12)10(15)14-8-5-4-6-13-7-8;;/h4-7,9H,12H2,1-3H3,(H,14,15);2*1H/t9-;;/m1../s1
